Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hyperglycemia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ year old female, with a history of past DKA 
secondary to refusal to take insulin for T1DM.  Patient reports 
that she was in her usual state of health when she decided to 
stop taking her insulin on ___, 5 days prior to 
admission (PTA).  She states that this was not a suicidal 
attempt.  It was her intention to take her insulin, but she 
simply "forgot."  Her history is inconsistent in that she states 
her mother typically watches her take her insulin, but she 
actively placed saline in her insulin vials disguise the fact 
that she wasn't taking her insulin from her mother.  The patient 
reports that when she began to have frank symptoms of DKA, i.e. 
ketones in her urine, high glucose levels, she attempted to 
mitigate the ketosis by taking a short-acting insulin, namely 
Humalog at approximately 4am day of admission (DOA).  Her 
symptoms during this period included slowly progressive fatigue, 
nausea, and blurry vision.  She fell asleep for a few hours 
prior to having to report to ___ Partial Hospitalization 
program this am.  When she reported there, she informed her care 
providers that she was experiencing ketosis and she was 
transported to ___.  Of note, this is not her first episode 
of DKA.  She has had several episodes in the past, for 
infections, and most importantly for a suicide attempt in ___.

In the ED, initial vs were: T 98.6 P ___ BP 97/58 R 20 O2 sat. 
98.  She was mildly ill-appearing with a benign exam.  Her 
initial labs showed (1200hours):Na 129|Cl 90|BUN 15|Gluc 542|K 
5.0|HCO3 18|Cr 0.8.  Urinalysis showed: Glucose 1000|Ketones 
150.

Patient was given insulin 10 UNITS IV regular x 1(1319hours), 1 
Liter NS with 40mEq K+ (1420hours), and then given 8 UNITS 
insulin SC x1 (1435hours)

On the floor, VS: T 98.6, BP 102/64, P 72, RR 20, O2sats 100/RA. 
 The patient was initially placed with a 1:1 sitter.  Psychiatry 
was called in for a consult.  See OMR ___.  Appreciate 
Psychiatry recommendations.  Medicine team spoke with patient 
and corroborated history and out-patient medications.  She 
reports currently experiencing blurry vision but no other acute 
complaints.

Review of sytems:   
(+) Per HPI.  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain.  Denied cough, shortness of breath. Denied chest pain or 
tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain.

 
Past Medical History:
PSYCHIATRIC HISTORY (INCLUDE PRIOR HOSPITALIZATIONS, OUTPATIENT
TREATMENTS, MEDICATION/ECT HISTORY, RESPONSE TO TREATMENT,
HISTORY OF HOMICIDAL/SUICIDAL/ASSAULTIVE BEHAVIOR): PER OMR ___
-Multiple past hospitalizations at ___ and ___, most
recently ___ at end of ___ hospitalization in ___
after SA by ___. Has been in inpatient eating disorder unit in
past. 
-Currently in partial hospitalization at ___ for the past two
weeks after d/c from ___. Immediately before was at ___ 
___ for one week after being hospitalized again at ___ 
for
one month.
-Previous DBT treatment at ___, ___ program,
___'s ___, among others. 
-Current therapist: Dr. ___ for one visit. Previously saw
___ whom she did not like. Also seen by therapist at
___. 
-Psychopharmacologist: Dr. ___ at ___. 
-First suicide attempt in ___ by ___. Previous history of
cutting and burning, but denies any such action in the last ___
years. 

PAST MEDICAL HISTORY:
# Type 1 Diabetes Mellitus, ___ years
# Depression
# Anxiety
# Asthma
# ___'s Thyroiditis, untreated (according to patient)
# Non-alcoholic fatty liver disease
 
Social History:
___
Family History:
Father - ___ abuse
Mother - ___
Brothers - ___ disorder

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals (ED): T 98.6, P ___, BP 97/58, RR 20, O2 sat. 98
Vitals (Floor): T 98.6, BP 102/64, P 72, RR 20, O2sats 100/RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL, EOMI 
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: a/ox3, CNs ___ intact, strength and sensation intact 
throughout, 2+ DTRs, ___: Dressed in gown.  Speech slow rate and low tone.  Poor 
eye contact.  Mood: "Doing alright, I guess."  Affect: Blunted. 
TF: Linear and concrete.  "I don't like Arbour."  TC: Denies 
SI/HI.  Decreased energy.  Insight/Judgment poor.
 
Pertinent Results:
ADMISSION LABS:
___ 12:00PM BLOOD WBC-7.5 RBC-5.23# Hgb-16.2*# Hct-46.4# 
MCV-89 MCH-30.9 MCHC-34.9 RDW-11.8 Plt ___
___ 12:00PM BLOOD Neuts-66.3 ___ Monos-2.8 Eos-2.4 
Baso-0.9
___ 12:00PM BLOOD Glucose-542* UreaN-15 Creat-0.8 Na-129* 
K-5.0 Cl-90* HCO3-18* AnGap-26*
___ 12:00PM BLOOD ALT-12 AST-15 LD(LDH)-168 AlkPhos-102 
TotBili-0.4
___ 09:00PM BLOOD Calcium-8.1* Phos-3.1 Mg-1.9

DISCHARGE LABS:
___ 07:35AM BLOOD WBC-6.7 RBC-4.77 Hgb-15.1 Hct-42.2 MCV-89 
MCH-31.6 MCHC-35.7* RDW-11.7 Plt ___
___ 07:35AM BLOOD Glucose-260* UreaN-15 Creat-0.7 Na-140 
K-3.9 Cl-104 HCO3-26 AnGap-14
___ 07:35AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.0

URINE STUDIES:
___ 12:00PM URINE Color-Straw Appear-Clear Sp ___
___ 12:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-150 Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG

MICROBIOLOGY: none
RADIOLOGY: none

EKG: normal; NSR, HR 88, normal RSR' variant in V1-2; QTc 
normal.
 
Brief Hospital Course:
DIABETIC KETOACIDOSIS:
Type 1 Diabetes Mellitus, poorly controlled with complications
Ms. ___ is a ___ yo female with long-standing Type I 
diabetes mellitus followed at the ___ who 
presented with diabetic ketoacidosis after intentional 
discontinuation of her home insulin (patient out-wardedly 
admitted and no further "medical" explaination such as 
infection, MI was pursued).  She had an anion gap of 21 with 
positive urine ketones initially in the ED.  She was managed 
with normal saline and subcutaneous insulin; electrolyte 
abnormalities quickly improved and she did not require an 
insulin drip.  The ___ diabetes consult service saw the 
patient while in-house and recommended changes to her sliding 
scale. Her acid-base status stabilized rapidly and she was 
medically cleared for discharge.

Her Insulin Regimen is AS FOLLOWS:
    Lantus 42 U q AM
    Sliding Scale
    Glucose Level     Before Breakfast     Before Lunch       
Before Dinner
         < 80
       80-120                  4                  4              
    4
       120-160                 5                  5              
    5
       160-200                 6                  6              
    6 
       200-240                 7                  7              
    7 
       241-280                 8                  8              
    8
       ___                 10                10              
   10 
         >361                  11                11              
   11

PSYCHIATRIC HISTORY:
Ms. ___ has a complicated psychiatric history, 
unfortunately including prior suicide attempts with-holding her 
home insulin as well as a reported history of sexual abuse by a 
prior physician.  She also has a history of eating disorder 
where she does not take her insulin as instructed in order to 
loose weight.  She was followed by the psychiatry consult 
service while in-house, who recommended placement in a treatment 
facility and no further changes to her medications.  She was 
continued on seroquel 50mg qhs, clonopin 0.5mg TID, Zoloft 100mg 
qAM, BusPar 15mg TID and prn Xanax 1mg.

It is noted that she has a history of Hashimoto thyroiditis but 
is not currently on medications.  TSH was found to be 2.6. Her 
thyroid function should be followed, though this calls the 
diagnosis into question.

TO BE RESOLVED

1) DIABETES - Needs follow up appointment with ___. 

2) PSYCHIATRY - There is ___ Psychiatrist and Psychologist 
available if needed

 
Medications on Admission:
Advair 2 disks BID
Betamethasone Cream application BID
BuSpar 15mg PO HS
Clonazepam 0.5mg PO TID
Lantus 43 UNITS PO QAM
Seroquel 25mg PO QD
Zoloft 100mg PO QD
Albuterol 2 syrups PO QID
Humalog Sliding scale
Ibuprofen 400mg PO Q6H
Xanax 1mg PO Q6H
Trileptal 300mg PO BID
Risperdal 0.25mg PO QD (unconfirmed)
 
Discharge Medications:
1. Fluticasone-Salmeterol 100-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
2. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
3. Quetiapine 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
4. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Buspirone 5 mg Tablet Sig: Three (3) Tablet PO TID (3 times a 
day).  
6. Oxcarbazepine 150 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
7. Xanax 1 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for anxiety.  
8. Insulin Glargine 300 unit/3 mL Insulin Pen Sig: ___ 
(42) units Subcutaneous qAM: Every morning per protocol.  
9. Insulin Regular Human 300 unit/3 mL Insulin Pen Sig: ___ 
units Subcutaneous as directed: See Discharge Summary for 
Sliding scale directions.  
10. Transportation
Please provide/allow transportation to appointment with Dr. 
___ on ___ at 9 am at the ___ 
___ follow-up of your diabetes care.  Phone number is 
___. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
DKA
Diabetes Mellitus, type 1

SECONDARY DIAGNOSES:
Depression
Anxiety
Borderline PD
Hash___ thyroiditis

 
Discharge Condition:
Afebrile, tolerating regular diet, blood sugars normalizing 
based on recommendations from ___.

 
Discharge Instructions:
You were admitted with DKA. You went into DKA because you did 
not take your insulin. It is good that you came to the hospital 
because you were very sick. You must take your insulin and 
follow up with ___ to manage your insulin needs.
.
We have consulted with ___ who left recommendations about the 
appropriate insulin regimen.  This regimen will be provided to 
your discharge providers at ___.  At 
___, your insulin regimen will be coordinated.
. 
In addition, ___ will be providing you with providers in 
therapy and psychiatry.  ___ has providers who also will 
follow your care secondarily.
.
Return to the hospital if you have high fevers, severe nausea, 
or any symptoms that concern you.
 
Followup Instructions:
___